US04618677
The procedure described in Example 2 was followed, using 1.6 g of 3,4-dichlorophenyl isocyanate, 3.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.9 g of triethylamine and 50 ml of methylene chloride, to give 1.2 g (26% of theory) of N-(3,4-dichlorophenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 227°-230° C.

reactant | 3,4-dichlorophenyl isocyanate | 1.6 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 3.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3,4-dichlorophenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.2 g, 26% | Cl.Cl.ClC=1C=C(C=CC1Cl)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C21H26Cl3N3OS.2ClH/c22-17-4-2-16(3-5-17)15-27-11-9-26(10-12-27)8-1-13-29-21(28)25-18-6-7-19(23)20(24)14-18;;/h2-7,14,25,28-29H,1,8-13,15H2;2*1H
